US09421514B2
(b) 5,5′-(Naphthalene-2,7-diyl)diisophthalic acid (H4L4)
2.0 g of tetraethyl 5,5′-(naphthalene-2,7-diyl)diisophthalate was dissolved in 60 mL of mixed solvent of THF and MeOH (v/v=1:1), 20 mL of 2N NaOH aqueous solution was added. The mixture was stirred at room temperature overnight. After the organic phase was removed, the aqueous phase was acidified with dilute hydrochloric acid to a white precipitate, which was filtered and washed with water several times. Yield: 1.46 g, 91%. 1H NMR (300 MHz, DMSO-d6): δ 7.95 (d, 2H), 8.11 (d, 2H), 8.53 (m, 8H).

reactant | tetraethyl 5,5′-(naphthalene-2,7-diyl)diisophthalate | 2.0 g | C1=C(C=CC2=CC=C(C=C12)C=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC)C=1C=C(C=C(C(=O)OCC)C1)C(=O)OCC | C34H32O8
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | NaOH | 2N, 20 mL | [OH-].[Na+]
product | 5,5′-(Naphthalene-2,7-diyl)diisophthalic acid | C1=C(C=CC2=CC=C(C=C12)C=1C=C(C=C(C(=O)O)C1)C(=O)O)C=1C=C(C=C(C(=O)O)C1)C(=O)O | C26H16O8
